US04766212
A solution of 17 g of trans-4-amino-7-methoxy-2,3,4,5-tetrahydro-1-benzoxepin-5-ol dissolved in 700 ml of hydrocarbon-stabilized chloroform was treated with 16 ml of triethylamine at room temperature and 10 g of chloroacetyl chloride dissolved in 80 ml of chloroform was slowly added thereto. The reaction mixture was allowed to stand at room temperature for 24 hours and the solid removed by filtration and washed with chloroform. The filtrate was washed twice with dilute hydrochloric acid solution, followed by a wash with water and dried over anhydrous magnesium sulfate. The filtrate was evaporated to dryness and triturated with ether to yield 18.8 g of trans-2-chloro-N-(2,3,4,5-tetrahydro-5-hydroxy-7-methoxy-1-benzoxepin-4-yl)acetamide.

reactant | trans-4-amino-7-methoxy-2,3,4,5-tetrahydro-1-benzoxepin-5-ol | 17 g | N[C@@H]1CCOC2=C([C@H]1O)C=C(C=C2)OC | C11H15NO3
reactant | triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 10 g | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | trans-2-chloro-N-(2,3,4,5-tetrahydro-5-hydroxy-7-methoxy-1-benzoxepin-4-yl)acetamide | 18.8 g | ClCC(=O)N[C@@H]1CCOC2=C([C@H]1O)C=C(C=C2)OC | C13H16ClNO4
